Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2][C:10]([C:7]([O:6][C:3]([H:4])[H:5])([H:8])[H:9])([H:11])[H:12],3.27422688722
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],3.96776972807
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3],0.7071119731290001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],3.89822636164
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.74645895089
[O:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:2]([H:3])([H:4])=[C:5][C:6]([H:7])([H:8])[O:9][H:10].[O:1],1.35395305053
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][O:11][H:12].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12],-2.38918023066
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2],5.00372828128
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:9][H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-1.55287286803
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.02607365847
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.14308526383
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.85004347842
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5],3.56583093667
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.0383646752
[C:3]([H:4])(=[C:5][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])[H:8].[H:1][C:2]#[C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.00952648121
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.44841202126
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],3.9173718471900014
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-5.97479753689
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],6.59364659759
[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.0931020778899998
[H:15].[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.9729917095
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1],5.908889696699999
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-2.97421292447
[H:12].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.087907705319998
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5][C:7]([H:8])([H:9])[H:10],4.34796331264
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.0884933761400015
[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.1832340978
